US09388176B2
Methyl-3-(3-dimethylaminomethylene-4-oxopiperidin-1-yl)-benzoate
A solution of methyl-3-(4-oxopiperidin-1-yl)-benzoate (2.72 g, 11.66 mmol) and DMF-dimethylacetal (6.24 mL, 46.64 mmol) in 1,4-dioxane (50 mL) was refluxed for 43 hours. The reaction mixture was concentrated and the residue was eluted through a flash column (silica gel 60, 230-400 mesh, 5% MeOH in EtOAc to 8% MeOH in EtOAc) to obtain the title compound as a red oil which slowly crystallized on standing (1.52 g, 45%).

reactant | methyl-3-(4-oxopiperidin-1-yl)-benzoate | 11.66 mmol, 2.72 g | COC(C1=CC(=CC=C1)N1CCC(CC1)=O)=O | C13H15NO3
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | Methyl-3-(3-dimethylaminomethylene-4-oxopiperidin-1-yl)-benzoate | COC(C1=CC(=CC=C1)N1CC(C(CC1)=O)=CN(C)C)=O | C16H20N2O3
